US05807857
3,4-Dihydro-2H-pyran (3.9 ml, 42.7 mmol) was added to a stirred solution of 4-(1,2,4-triazol-1-ylmethyl)phenyl hydrazine (EP 497,512; 4.0 g, 21.1 mmol) in dioxane/water/5N HCl (38 ml/14 ml/4.7 ml) and stirred at room temperature for 1.75 h. The solution was then refluxed for 1.5 h and the solvent removed under vaccum. The residue was taken up into CH2 Cl2 and saturated aqueous K2CO3 solution. The aqueous was separated and further extracted with CH2Cl2 (×4). The combined organic extracts were dried (MgSO4) and evaporated and the residue chromatographed on silica gel eluting with CH2Cl2 /MeOH/NH3 (80:8:1) to give the title-indole (0.919 g, 17%), δ (250 MHz, CDCl3) 1.91-2.03 (2H, m, CH2), 2.84 (2H, t, J=7.9Hz, CH2), 3.73 (2H, t, J=7.9Hz, CH2), 5.43 (2H, s, CH2), 7.04 (1H, d, J=2.3Hz, Ar-H), 7.11 (1H, dd, J=2.3 and 8.3Hz, Ar-H), 7.35 (1H, d, J=8.3Hz, Ar-H), 7.58 (1H, s, Ar-H), 7.97 (1H, s, Ar-H), 8.02 (1H, s, Ar-H), 8.18 (1H, s, NH).

reactant | 3,4-Dihydro-2H-pyran | 42.7 mmol, 3.9 ml | O1CCCC=C1 | C5H8O
reactant | 4-(1,2,4-triazol-1-ylmethyl)phenyl hydrazine | 21.1 mmol, 4.0 g | N1(N=CN=C1)CC1=CC=C(C=C1)NN | C9H11N5
solvent | dioxane water | 5N, 38 ml | O1CCOCC1.O
product | indole | 0.919 g, 17% | N1C=CC2=CC=CC=C12 | C8H7N
